US06399773B1
2-Bromo-N-(2-bromophenyl)acetamide
To a solution of 2-bromoaniline (2.0 g, 11.63 mmol) in 25 mL of dichloromethane was added pyridine (1.13 mL, 13.95 mmol). The solution was cooled to 0° C. and bromoacetyl chloride (1.01 mL, 12.79 mmol) was added over a 5 min. period. The cooling bath was removed and the reaction mixture was stirred at RT for 90 min and partitioned between 1N HCl and dichloromethane. The dichloromethane layer was successively washed with saturated aqueous sodium carbonate, brine, dried over sodium sulfate and concentrated to yield 2.9 g of the title compound, which was used as such for the subsequent step without further purification.

reactant | 2-bromoaniline | 11.63 mmol, 2.0 g | BrC1=C(N)C=CC=C1 | C6H6BrN
reactant | pyridine | 13.95 mmol, 1.13 mL | N1=CC=CC=C1 | C5H5N
reactant | bromoacetyl chloride | 12.79 mmol, 1.01 mL | BrCC(=O)Cl | C2H2BrClO
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 2-Bromo-N-(2-bromophenyl)acetamide | 2.9 g | BrCC(=O)NC1=C(C=CC=C1)Br | C8H7Br2NO
